US09034900B2
Step 2: 3-amino-1-methyl-5-(3-methylsulfonylphenyl)pyrazin-2-one
A solution of 3-amino-5-bromo-1-methylpyrazin-2-one (81.0 mg, 0.4 mmol), (3-methylsulfonylphenyl)boronic acid (120.0 mg, 0.6 mmol), Cs2CO3 (391.0 mg, 1.2 mmol), Pd(PPh3)4 (20.0 mg, 0.017 mmol) in dioxane (20.0 mL) and water (2.0 mL) was stirred at 95° C. for 12 h under N2. The mixture was concentrated and purified by silica gel chromatography (PE:EA=3:2) to give the title compound (20.0 mg, 18%). 1H NMR (DMSO-d6 400 MHz): δ 8.35 (s, 1H), 8.11 (d, J=8.0 Hz, 1H), 7.80 (d, J=8.0 Hz, 1H), 7.73 (s, 1H), 7.66 (t, J=8.0 Hz, 1H), 6.93 (brs, 2H), 3.50 (s, 3H), 3.24 (s, 3H). LCMS (M+H)+ 280.

reactant | 3-amino-5-bromo-1-methylpyrazin-2-one | 0.4 mmol, 81.0 mg | NC=1C(N(C=C(N1)Br)C)=O | C5H6BrN3O
reactant | (3-methylsulfonylphenyl)boronic acid | 0.6 mmol, 120.0 mg | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | Cs2CO3 | 1.2 mmol, 391.0 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 20.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.0 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.017 mmol, 20.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-amino-1-methyl-5-(3-methylsulfonylphenyl)pyrazin-2-one | 20.0 mg, 18% | NC=1C(N(C=C(N1)C1=CC(=CC=C1)S(=O)(=O)C)C)=O | C12H13N3O3S
